US07858640B2
[8-chloro-3-(4-chlorobenzyl)-2-ethyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-chlorophenoxy)acetic acid methyl ester (0.53 g), 2-(4-chlorobenzyl)-3-oxopentanoic acid ethyl ester (0.66 g), methanesulfonic acid (0.032 mL) and toluene (20 mL) was heated at reflux for 20 hours. The mixture was cooled to room temperature and the solvent removed under reduced pressure. The residue was diluted with water, extracted with ethyl acetate and the combined extracts dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and ethyl acetate (9:1 by volume) to afford title compound, 0.034 g

reactant | (3-amino-4-chlorophenoxy)acetic acid methyl ester | 0.53 g | COC(COC1=CC(=C(C=C1)Cl)N)=O | C9H10ClNO3
reactant | 2-(4-chlorobenzyl)-3-oxopentanoic acid ethyl ester | 0.66 g | C(C)OC(C(C(CC)=O)CC1=CC=C(C=C1)Cl)=O | C14H17ClO3
reactant | methanesulfonic acid | 0.032 mL | CS(=O)(=O)O | CH4O3S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | [8-chloro-3-(4-chlorobenzyl)-2-ethyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)Cl)CC)CC1=CC=C(C=C1)Cl)=O)=O | C21H19Cl2NO4
